### PR TITLE
feat(AlgebraicTopology/SimplicialSet): the fundamental groupoid

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #42526
- [x] depends on: #42527

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,336 @@
...
+lemma mapFundamentalGroupoid_obj_mk (f : X ⟶ Y) (x : X _⦋0⦌) :
+    (mapFundamentalGroupoid f).obj (mk x) = mk (f.app _ x) := rfl
+
+@[simp]
+lemma mapFundamentalGroupoid_map_homMk (f : X ⟶ Y) {x y : X _⦋0⦌} (e : Edge x y) :
+    (mapFundamentalGroupoid f).map (homMk e) = homMk (e.map f) := by rfl
+
+example (f : X ⟶ Y) (x : X _⦋0⦌) :
+    (mapFundamentalGroupoid f).obj (mk x) = mk (f.app _ x) := by
+  with_implicit rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean:321]: If you want, another way to make sure this defeq remains at the correct transparency is to add this example as an #ensure_defeq in the test file `MathlibTest/CategoryTheory/CheckDsimp.lean` (though it ensures it’s an `@[defeq]` rather than the fact that this holds at implicit-reducible transparency).

**Review by robin-carlier — COMMENTED** [review]
Just a passing comment

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean:336]: Thanks for the suggestion!

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,345 @@
...
+lemma homMk_id (x : X _⦋0⦌₂) : homMk (Edge.id x) = 𝟙 (mk x) :=
+  (equivalenceFreeGroupoid X).functor.map_injective
+    (((FreeGroupoid.of X.HomotopyCategory).congr_map (by simp)).trans
+    ((FreeGroupoid.of X.HomotopyCategory).map_id _))
+
+/-- Induction principle for morphisms in the fundamental groupoid
+of a `2`-truncated simplicial set: in order to prove a property
+of all morphisms, it suffices to do it for morphisms induced
+by edges and show that the property is stable by inverses and
+by composition; -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]:
```suggestion
by composition. -/
```

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,345 @@
...
+In order to get good definitional properties at implicit transparency,
+we do not define `FundamentalGroupoid X` as `FreeGroupoid X.HomotopyCategory`,
+but only as an induced category via a bijection
+`FundamentalGroupoid X ≃ FreeGroupoid X.HomotopyCategory`.
+If `f : X ⟶ Y` is a morphism of simplicial sets and `x : X _⦋0⦌`,
+this allows to obtain the equality
+`(mapFundamentalGroupoid f).obj (mk x) = mk (f.app _ x)`
+by `with_implicit rfl`.
+
+
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]:
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,343 @@
...
+  pt : X _⦋0⦌₂
+
+namespace FundamentalGroupoid
+
+lemma mk_surjective : Function.Surjective (mk (X := X)) :=
+  fun x ↦ ⟨x.pt, rfl⟩
+
+/-- The bijection `FundamentalGroupoid X ≃ FreeGroupoid X.HomotopyCategory` that is
+used to define the category structure on `FundamentalGroupoid X`
+when `X` is a`2`-truncated simplicial set. -/
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]:
```suggestion
when `X` is a `2`-truncated simplicial set. -/
```

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,343 @@
...
+
+variable (X) in
+/-- The fundamental groupoid of a simplicial set `X`. -/
+abbrev FundamentalGroupoid : Type u :=
+  ((truncation 2).obj X).FundamentalGroupoid
+
+namespace FundamentalGroupoid
+
+/-- Constructor for objects of the fundamental groupoid of a simplicial set `X`. -/
+abbrev mk (x : X _⦋0⦌) : FundamentalGroupoid X := Truncated.FundamentalGroupoid.mk x
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]: I’m a bit confused by the transparency setup of the boundary between the truncated/nontrucated versions here:
- `SSet.FundamentalGroupoid` is an abbrev for the fundamental groupoid of the truncation
- `mk` is an abbrev for the constructor of the truncated version

but
- homMk is a `def`
- `rec`, `desc` `mapFundamentalGroupoid` are (implicit_reducible) `def`

Is there a reason why the transparency of those boundary-crossing declarations is not uniform? (e.g., make everything `implicit_reducible` defs).

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,343 @@
...
+    (mapFundamentalGroupoid f).obj (mk x) = mk (f.app _ x) := by
+  with_implicit rfl
+
+/-- The isomorphism of fundamental groupoids that is induced
+by a morphism of simplicial sets which induces an isomorphism
+on the `2`-truncations. -/
+noncomputable def isoCatMapFundamentalGroupoid (f : X ⟶ Y)
+    (hf : IsIso ((truncation 2).map f) := by infer_instance) :
+    IsoCat (FundamentalGroupoid X) (FundamentalGroupoid Y) :=
+  Truncated.mapIsoFundamentalGroupoid (asIso ((truncation 2).map f))
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]: Given that the input is the property that `f` is an isomorphism, it would make more sense to stay in the `Prop` realm and to prove
```suggestion
lemma isIso_mapFundamentalGroupoid_of_isIso (f : X ⟶ Y)
    (hf : IsIso ((truncation 2).map f) := by infer_instance) :
    (mapFundamentalGroupoid f).IsIso :=
  Truncated.mapIsoFundamentalGroupoid (asIso ((truncation 2).map f))|>.isIso_functor
```
and let users who really want to noncomputably conjure an `IsoCat` do so with `Functor.asIsomorphism`.

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,343 @@
...
+    FundamentalGroupoid X ⥤ FundamentalGroupoid Y :=
+  SSet.Truncated.mapFundamentalGroupoid ((truncation 2).map f)
+
+@[simp]
+lemma mapFundamentalGroupoid_obj_mk (f : X ⟶ Y) (x : X _⦋0⦌) :
+    (mapFundamentalGroupoid f).obj (mk x) = mk (f.app _ x) := rfl
+
+@[simp]
+lemma mapFundamentalGroupoid_map_homMk (f : X ⟶ Y) {x y : X _⦋0⦌} (e : Edge x y) :
+    (mapFundamentalGroupoid f).map (homMk e) = homMk (e.map f) := by rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]: I think for non-exported defeqs it’s more common to use
```suggestion
    (mapFundamentalGroupoid f).map (homMk e) = homMk (e.map f) := (rfl)
```

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,343 @@
...
+namespace FundamentalGroupoid
+
+/-- Constructor for objects of the fundamental groupoid of a simplicial set `X`. -/
+abbrev mk (x : X _⦋0⦌) : FundamentalGroupoid X := Truncated.FundamentalGroupoid.mk x
+
+lemma mk_surjective : Function.Surjective (mk (X := X)) :=
+  Truncated.FundamentalGroupoid.mk_surjective
+
+/-- Induction principle for the objects of the fundamental groupoid of a simplicial set. -/
+@[elab_as_elim, cases_eliminator, induction_eliminator]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]: I’m not completely sure this is the right thing to do but potentially rec-defined things might show up in implicit arguments
```suggestion
@[implicit_reducible, elab_as_elim, cases_eliminator, induction_eliminator]
```

we also need a dsimp-lemma linking `rec (mk _)` and `mk`

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean]: Thanks the for suggestions! I was not completely sure how to proceed here (what I want to ensure is good defeq properties regarding objects and `mapFundamentalGroupoid`). I have removed `abbrev`s in the definition of the fundamental groupoid of a (not truncated) simplicial set.
(I do not think we need to make `homMk` implicit_reducible: it may stay a relatively "opaque" definition, especially as I did not expose it in the truncated version.)

File: Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,351 @@
...
+
+end SSet.Truncated
+
+namespace SSet
+
+variable {X Y : SSet.{u}}
+
+variable (X) in
+/-- The fundamental groupoid of a simplicial set `X`. -/
+def FundamentalGroupoid : Type u :=
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/FundamentalGroupoid/Basic.lean:231]: (untested) If we make it a `def`, then I think we need at least some level of `implicit_reducible` given that we’re always told that Type-valued semireducible defs are bad.
```suggestion
@[implicit_reducible]
def FundamentalGroupoid : Type u :=
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
Do you have plans for how to connect this with the fundamental groupoid for topological spaces? Should we have some sort of characteristic property approach?

**Comment by joelriou** [comment]
> Do you have plans for how to connect this with the fundamental groupoid for topological spaces? Should we have some sort of characteristic property approach?

In this PR, there are already definitions which allow to construct functors from the fundamental groupoid (of a simplicial set) and an induction principle for morphisms which would allow defining natural isomorphisms.
There will be no difficulty showing that the fundamental groupoid of a topological space is equivalent (and even isomorphic) to the fundamental groupoid of its singular simplicial set. This is not something I intend to do in the very near future though.

**Comment by riccardobrasca** [comment]
@jcommelin is this OK for you? LGTM.
